US07820683B2
(2R)—N,N-dimethyl-2-{[4-({1-[(2-methyl-1,3-thiazol-5-yl)methyl]-1H-indazol-5-yl}amino)quinazolin-5-yl]oxy}propanamide
Using the same procedure as in Example 18, (2R)—N,N-dimethyl-2-[(4-oxo-3,4-dihydroquinazolin-5-yl)oxy]propanamide (261 mg, 1 mmol) and 1-[(2-methyl-1,3-thiazol-5-yl)methyl]-1H-indazol-5-amine (269 mg, 1.1 mmol) were reacted to give the title compound as a white solid (300 mg, 61%); NMR Spectrum (CDCl3) 1.73 (d, 3H), 2.62 (s, 3H), 3.07 (s, 3H), 3.15 (s, 3H), 5.43 (q, 1H), 5.71 (s, 2H), 6.82 (d, 1H), 7.43 (d, 1H), 7.49 (d, 1H), 7.61 (m, 2H), 7.86 (dd, 1H), 8.05 (s, 1H), 8.42 (s, 1H), 8.62 (s, 1H); Mass spectrum 488.

reactant | (2R)—N,N-dimethyl-2-[(4-oxo-3,4-dihydroquinazolin-5-yl)oxy]propanamide | 1 mmol, 261 mg | CN(C([C@@H](C)OC1=C2C(NC=NC2=CC=C1)=O)=O)C | C13H15N3O3
reactant | 1-[(2-methyl-1,3-thiazol-5-yl)methyl]-1H-indazol-5-amine | 1.1 mmol, 269 mg | CC=1SC(=CN1)CN1N=CC2=CC(=CC=C12)N | C12H12N4S
product | (2R)—N,N-dimethyl-2-{[4-({1-[(2-methyl-1,3-thiazol-5-yl)methyl]-1H-indazol-5-yl}amino)quinazolin-5-yl]oxy}propanamide | 300 mg, 61% | CN(C([C@@H](C)OC1=C2C(=NC=NC2=CC=C1)NC=1C=C2C=NN(C2=CC1)CC1=CN=C(S1)C)=O)C | C25H25N7O2S
